US05364878
3-Bromo-3,4-dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-2H-benzo[b]pyran-4-ol
14.2 g (0.08 mole) of freshly recrystallized N-bromosuccinimide are introduced into 12.6 g (0.04 mole) of 2,2-dimethyl-6-(4-methylphenylsulfonyl)chromene in a solution composed of 70 ml of dimethyl sulfoxide and 1.4 ml of water while cooling (isopropanol/dry ice) at about 15° C. The temperature rises transiently to 27°. It is cooled to 20° C. and, after stirring for one hour, introduced into ice/ethyl acetate. The ethyl acetate phase is washed several times with water and dried over Na2SO4. The bromohydrin derivative crystallizes on concentration. Crystals of melting point: 141°-142° C.

reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2-dimethyl-6-(4-methylphenylsulfonyl)chromene | 0.04 mole, 12.6 g | CC1(OC2=CC=C(C=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H18O3S
reactant | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
solvent | water | 1.4 ml | O | H2O
product | 3-Bromo-3,4-dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-2H-benzo[b]pyran-4-ol | BrC1C(C2=C(OC1(C)C)C=CC(=C2)S(=O)(=O)C2=CC=C(C=C2)C)O | C18H19BrO4S
